US04962103
(2R,4S)-1-p-Nitrobenzyloxycarbonyl-2-(2-acetoxyethyl)-4-acetylthiopyrrolidine (204 mg) was dissolved in 5 ml of methanol and 1 ml of 1N sodium hydroxide solution was added thereto at room temperature under nitrogen stream, followed by stirring for 30 minutes. 1H Hydrochloric acid (1.2 ml) was added to the reaction mixture. The resulting mixture was diluted with ethyl acetate, washed with brine five times, dried over anhydrous sodium sulfate and evaporated to give an oily residue, which was purified by silica gel thin layer chromatogaraphy to give (2R,4S)-1-p-nitrobenzyloxycarbonyl-2-(2-hydroxyethyl)-4-mercaptopyrrolidine.

reactant | (2R,4S)-1-p-Nitrobenzyloxycarbonyl-2-(2-acetoxyethyl)-4-acetylthiopyrrolidine | 204 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CCOC(C)=O)C=C1 | C18H22N2O7S
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1.2 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4S)-1-p-nitrobenzyloxycarbonyl-2-(2-hydroxyethyl)-4-mercaptopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)CCO)C=C1 | C14H18N2O5S
